US04539332
3.0 g of 1,2-bis(3,4-dimethoxybenzoyl)ethane was reduced with 350 mg of lithium aluminum hydride in 50 ml THF at 0° C. for 1 hour and ambient temperature for 3 hours. After the usual workup, 2.8 g of white solid diol was recovered and dissolved in 50 ml of methylene chloride. The solution at 0° C. was treated with 1.2 g of triethylamine followed by 1.2 g of methane sulfonyl chloride and stirred under N2 until the starting diol disappears by TLC. At this point, 200 ml of ether was added and the organic layer washed with water, 3N HCl, 10% NaOH, water and dried over anhydrous sodium sulfate. The residue obtained by evaporation was chromatographed to recover the major spot (silica gel, ethyl acetate-hexane 30:70). Crystallization from 50 ml methylene chloride and 100 ml of hexane evaporated to a final volume of 100 ml gave 0.6 g of trans- 2,5-bis (3,4-dimethoxyphenyl)tetrahydrofuran, NMR (CDCl3 ):δ 1.9-2.5 (4H, m, 3-H, 4-H) 3.85 and 3.90 (each s, 6H, 2×OCH3), 5.24 (2H, t, J=6.6 Hz, 2-, 5-H), and 6.8-7.0 (6H, m, ArH), m.p. 114°-115° C. The second and third crops gave 1.1 g of crystalline product which contains a mixture of cis and trans isomers. Separation of the isomers was made on Partisil-10 column using hexane (80%), ethylacetate (20%) as eluting solvent. The NMR of the cis isomer (m.p. 92°-96° C.) is shown below.

reactant | 1,2-bis(3,4-dimethoxybenzoyl)ethane | 3.0 g | COC=1C=C(C(=O)CCC(C2=CC(=C(C=C2)OC)OC)=O)C=CC1OC | C20H22O6
reactant | lithium aluminum hydride | 350 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | trans- 2,5-bis (3,4-dimethoxyphenyl)tetrahydrofuran | 0.6 g | COC=1C=C(C=CC1OC)[C@@H]1O[C@H](CC1)C1=CC(=C(C=C1)OC)OC | C20H24O5
